US04188403
0.23 g of sodium are dissolved in 30 ml of 1-heptanol at 50° under nitrogen. Dropwise, with stirring, there is added 4.88 g of N-heptyl-N-methyl-2-bromo-4,5-bibenzyloxycyclopentane-1-amine (obtainable from 3,5-dibenzyloxy-2-cyclopentene by the addition of bromine and reaction with 1-equivalent of methyl heptylamine), dissolved in 30 ml of benzene. Stirring is carried on for 6 hours at 50°. After cooling, 100 ml of benzene is added thereto. This is washed with water. The organic phase is dried over MgSO4 and the solvent is distilled off. After chromatographic purification of the residue (silica gel/chloroform:acetone=9:1), N-heptyl-N-methyl-5-heptyloxy-2,4-dibenzyloxy-cyclopentane-1-amine is obtained.

reactant | sodium | 0.23 g | [Na] | Na
reactant | 3,5-dibenzyloxy-2-cyclopentene | C(C1=CC=CC=C1)OC1=CCC(C1)OCC1=CC=CC=C1 | C19H20O2
reactant | bromine | BrBr | Br2
reactant | methyl heptylamine | 1-equivalent | CNCCCCCCC | C8H19N
solvent | 1-heptanol | 30 ml | C(CCCCCC)O | C7H16O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-heptyl-N-methyl-5-heptyloxy-2,4-dibenzyloxy-cyclopentane-1-amine | C(CCCCCC)N(C1C(CC(C1OCCCCCCC)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C | C34H53NO3
